US04843068
3.0 Grams (0.02 mole) of 1-p-tolylcyclopropane-1-carbonitrile and 0.1 g (0.0004 mole) of benzoyl peroxide were dissolved in 50 ml of carbon tetrachloride, and 3.2 g of bromine was added dropwise over 30 minutes under reflux. After completion of the addition, reaction was continued for further 30 minutes. After cooling the reaction solution, carbon tetrachloride was removed by evaporation to obtain 4.4 g of 1-(4-bromomethylphenyl)cyclopropane-1-carbonitrile.

reactant | 1-p-tolylcyclopropane-1-carbonitrile | 0.02 mole | C1(=CC=C(C=C1)C1(CC1)C#N)C | C11H11N
reactant | bromine | 3.2 g | BrBr | Br2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.0004 mole, 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-(4-bromomethylphenyl)cyclopropane-1-carbonitrile | 4.4 g, Yield 90% | BrCC1=CC=C(C=C1)C1(CC1)C#N | C11H10BrN
